US09315521B2
2-{[(1-ethyl-5-methyl-1H-imidazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride
To a mixture of 2-{[(1-ethyl-5-methyl-1H-imidazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (60 mg, 0.23 mmol) in MeOH (2 mL) was added 4 M HCl/dioxane (500 μL, 2.0 mmol). The mixture was filtered to remove particles in suspension. The solution was evaporated and dried in vacuo, affording the title compound (68 mg, 99% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.38 (t, 3H, J=6.7 Hz), 2.23 (s, 3H), 2.38 (s, 3H), 4.09 (m, 2H), 4.44 (s, 2H), 6.09 (s, 1H), 9.04 (s, 1H); M+266.

reactant | 2-{[(1-ethyl-5-methyl-1H-imidazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 0.23 mmol, 60 mg | C(C)N1C=NC(=C1C)CSC1=NC(=CC(=N1)O)C | C12H16N4OS
reactant | HCl dioxane | 2.0 mmol, 4 M, 500 μL | Cl.O1CCOCC1
solvent | MeOH | 2 mL | CO | CH4O
product | 2-{[(1-ethyl-5-methyl-1H-imidazol-4-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol hydrochloride | 68 mg, 99% yield | Cl.C(C)N1C=NC(=C1C)CSC1=NC(=CC(=N1)O)C | InChI=1S/C12H16N4OS.ClH/c1-4-16-7-13-10(9(16)3)6-18-12-14-8(2)5-11(17)15-12;/h5,7H,4,6H2,1-3H3,(H,14,15,17);1H
